US03941821
A mixture of 5 g. (0.016 moles) of ethyl α, 2'-dichloro-4-biphenylylacetate and 5.5 ml. of anhydrous isopropylamine are stirred over Linde 4A molecular sieve for 16 hours at room temperature. The reaction mixture is taken up in ether and washed 3 times with 15 ml. of 10% hydrochloric acid. The ether layer is dried over sodium sulfate, filtered, and the ether is removed. The residue is triturated with n-hexane and the precipitate is collected to obtain N-isopropyl α, 2'-dichloro-4-biphenylylacetamide.

reactant | ethyl α, 2'-dichloro-4-biphenylylacetate | 0.016 moles | ClC(C(=O)OCC)C1=CC=C(C=C1)C1=C(C=CC=C1)Cl | C16H14Cl2O2
reactant | isopropylamine | C(C)(C)N | C3H9N
solvent | ether | CCOCC | C4H10O
product | N-isopropyl α, 2'-dichloro-4-biphenylylacetamide | C(C)(C)NC(C(Cl)C1=CC=C(C=C1)C1=C(C=CC=C1)Cl)=O | C17H17Cl2NO
